US04575511
Trans-6-cyano-4-(ethoxycarbonylamino)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (E10)
To trans-4-amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (1.09 g) and triethylamine (0.77 ml) in dichloromethane (20 ml), cooled in an ice bath, was added ethylchloroformate (0.67 ml). The mixture was allowed to attain room temperature and stirred for 2 days. The reaction mixture was washed with water and dried over anhydrous magnesium sulphate. Filtration and evaporation and chromatography (chromatotron, gradient elution: 10-30% Ethyl acetate-pentate) gave one fraction (456 mg) which was recrystallised from ethyl acetate-pentane to give the compound of this example (319 mg); mp 147°-148° C.

reactant | trans-4-amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 1.09 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | triethylamine | 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 0.67 ml | C(C)OC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Trans-6-cyano-4-(ethoxycarbonylamino)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NC(=O)OCC)C1 | C15H18N2O4
